### PR TITLE
[Merged by Bors] - feat: `{x | p x}⁻¹ = {x | p x⁻¹}`

### PR DESCRIPTION
**Pull request by vihdzp**
---

split off from #27422

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by YaelDillies — COMMENTED** [review]
Can you make sure that the corresponding statement where the set builder notation is finset-valued is also provable by simp?

**Comment by vihdzp** [comment]
I've added the corresponding statement on `Finset`.

File: Mathlib/Algebra/Group/Pointwise/Finset/Basic.lean [hunk 1]
```diff
@@ -268,6 +268,11 @@ variable [DecidableEq α] [InvolutiveInv α] {s : Finset α} {a : α}
 @[to_additive (attr := simp)]
 lemma mem_inv' : a ∈ s⁻¹ ↔ a⁻¹ ∈ s := by simp [mem_inv, inv_eq_iff_eq_inv]
 
+@[to_additive (attr := simp)]
+theorem inv_setOf (p : α → Prop) [Fintype α] [DecidablePred p] :
+    ({x | p x} : Finset α)⁻¹ = {x | p x⁻¹} := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Pointwise/Finset/Basic.lean]: Can you generalise to something like
```suggestion
theorem inv_filter (s : Finset \a) (p : α → Prop) [Fintype α] [DecidablePred p] :
    ({x \in s | p x} : Finset α)⁻¹ = {x \in s^-1 | p x⁻¹} := by
```
?

File: Mathlib/Algebra/Group/Pointwise/Finset/Basic.lean [hunk 2]
```diff
@@ -269,9 +269,13 @@ variable [DecidableEq α] [InvolutiveInv α] {s : Finset α} {a : α}
 lemma mem_inv' : a ∈ s⁻¹ ↔ a⁻¹ ∈ s := by simp [mem_inv, inv_eq_iff_eq_inv]
 
 @[to_additive (attr := simp)]
+theorem inv_filter (s : Finset α) (p : α → Prop) [DecidablePred p] :
+    ({x ∈ s | p x} : Finset α)⁻¹ = {x ∈ s⁻¹ | p x⁻¹} := by
+  ext; simp
+
 theorem inv_setOf (p : α → Prop) [Fintype α] [DecidablePred p] :
     ({x | p x} : Finset α)⁻¹ = {x | p x⁻¹} := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Pointwise/Finset/Basic.lean]: We don't use `setOf` for this notation
```suggestion
theorem inv_filter_univ (p : α → Prop) [Fintype α] [DecidablePred p] :
    ({x | p x} : Finset α)⁻¹ = {x | p x⁻¹} := by
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
